US05135931
A mixture of 69.3 g of 1-[6-(trifluoromethyl) -2-pyridinyl]piperazine, and 129.6 g of N-(2-bromo-ethyl)phthalimide and 57.2 g of sodium carbonate is heated at reflux for 23 hours. The resulting precipitate is filtered off and the ethanol evaporated. The concentrate is dissolved in dichloromethane, washed with water, dried over magnesium sulfate, and evaporated. The resulting precipitate is recrystallized from isopropanol to give 39.5 g of 2-μ-[4-[6-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl]ethyl]-1H-isoindole-1,3-dione (yield 33%).

reactant | 1-[6-(trifluoromethyl) -2-pyridinyl]piperazine | 69.3 g | FC(C1=CC=CC(=N1)N1CCNCC1)(F)F | C10H12F3N3
reactant | N-(2-bromo-ethyl)phthalimide | 129.6 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | sodium carbonate | 57.2 g | C([O-])([O-])=O.[Na+].[Na+]
product | 1H-isoindole-1,3-dione | yield 33% | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
